VDMOS Mtriode Test
M1 D G 0 IRFP240
VG G 0 1V
VD D 0 0.1V
.control
foreach myMTRIODE 0.5 1.0 1.5
 altermod @IRFP240[MTRIODE]=$myMTRIODE
 dc vd 0 30 0.1 vg 4 10 1
end
plot abs(dc1.vd#branch) abs(dc2.vd#branch) abs(dc3.vd#branch) 
quit
.endc
.model IRFP240 VDMOS(Rg=3 Vto=4 Rd=72m Rs=18m Rb=36m Kp=4.9 Lambda=.03 Cgdmax=1.34n Cgdmin=.1n Cgs=1.25n Cjo=1.25n Is=67p ksubthres=.1 Vds=200 Ron=180m Qg=70n)
.end
