.title PORT TYPE MODIFIERS TEST

.param sel = 0 

V_vss     vss  0 DC 0

V_signal  pls1 0 DC 0 PULSE(0 5 1e-9 1e-9 1e-9 1e-3 2e-3)
V_signal2 pls2 0 DC 0 PULSE(0 5 1e-9 1e-9 1e-9 2e-3 4e-3)

*  Modes selected by command 'alterparam'
.if(sel == 1)
********************* MODE 1 ***********************
A_ADC %v[ pls1 %vd(pls2 0)] [dpls1 dpls2] ADC
****************************************************
.elseif(sel == 2)
********************* MODE 2 ***********************
A_ADC [ %vd(pls1 0) %v(pls2)] [dpls1 dpls2] ADC
****************************************************
.else
********************* MODE 3 ***********************
A_ADC %v[ pls1 pls2] [dpls1 dpls2] ADC
****************************************************
.endif

A_AND  [dpls1 dpls2] dand AND
A_DAC  [dand] [aand] DAC

	.model AND d_and
	.model ADC adc_bridge
	.model DAC dac_bridge

	.control
		tran 1e-3 4e-3
		eprint dand
		alterparam sel = 1
		reset
		tran 1e-3 4e-3
		eprint dand
		alterparam sel = 2
		reset
		tran 1e-3 4e-3
		eprint dand

		quit 0
	.endc
.end

